US06093744
Synthesis of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-nitro-phenyl ester
Oxalyl chloride (0.52 mL, 5.9 mmol) was added dropwise to a solution of 2,4,6-tris(1-methylethyl)-phenyl acetic acid in 150 mL toluene with four drops N,N-dimethylformamide added as a catalyst. The resulting solution was stirred for 4 hours at room temperature and concentrated in vacuo. The residue was redissolved in 200 mL dichloromethane with 2,6-bis(1-methylethyl)-4-nitrophenyl sulfamate (1.50 g, 4.9 mmol) and excess (3 mL) triethylamine and stirred for 16 hours. The reaction was washed with 1 M HCl, dried over MgSO4, filtered, and concentrated to give an oily solid. Recrystallization from hexanes gave 2.37 g (87%) of the title compound as a white solid; mp 85-89° C.

reactant | Oxalyl chloride | 5.9 mmol, 0.52 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4,6-tris(1-methylethyl)-phenyl acetic acid | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CC(=O)O | C17H26O2
reactant | 2,6-bis(1-methylethyl)-4-nitrophenyl sulfamate | 4.9 mmol, 1.50 g | S(N)(OC1=C(C=C(C=C1C(C)C)[N+](=O)[O-])C(C)C)(=O)=O | C12H18N2O5S
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | four drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 2,6-diisopropyl-4-nitro-phenyl ester | 2.37 g, 87% | C(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O | C29H42N2O6S
